US06121182
23 g (180 mmol) of dimethyldichlorosilane was dissolved in 200 ml of dry n-hexane (dried over Na-K alloy), to which was added a solution of 2-methyl-7-(1-naphthyl)indenyllithium (i.e., a solution of 9.2 g (36 mmol) of 2-methyl-7-(1-naphthyl)indene in a mixed solvent of 75 ml of dry toluene and 5 ml of tetrahydrofuran to which was dripped down 22.5 ml of a 1.6 M hexane solution of n-butyllithium at -78° C., followed by stirring at room temperature for 3 hours and by addition of 50 ml of tetrahydrofuran) under ice cooling. The mixture was stirred as was at room temperature for 3 hours to deposit white salt of lithium chloride. After standing the mixture so that the white salt precipitated, the supernatant was extracted with a syringe and transferred into another flask and low boiling components (solvent and unreacted dimethyldichlorosilane) were distilled off under reduced pressure at 8 mmHg to obtain dimethyl(2-methyl-4-(1-naphthyl)indenyl)silyl chloride.

reactant | dimethyldichlorosilane | 180 mmol, 23 g | C[Si](Cl)(Cl)C | C2H6Cl2Si
reactant | 2-methyl-7-(1-naphthyl)indene | 36 mmol, 9.2 g | CC=1CC2=C(C=CC=C2C1)C1=CC=CC2=CC=CC=C12 | C20H16
reactant | n-butyllithium | C(CCC)[Li]
reactant | lithium chloride | [Cl-].[Li+]
solvent | n-hexane | 200 ml | CCCCCC | C6H14
solvent | hexane | 1.6 M | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | dimethyl(2-methyl-4-(1-naphthyl)indenyl)silyl chloride | C[Si](C1C(=CC2=C(C=CC=C12)C1=CC=CC2=CC=CC=C12)C)(C)Cl | C22H21ClSi
